US09278973B2
To a solution of 3-(pyridin-2-yl)-1H-1,2,4-triazol-5-amine (100 mg, 0.57 mmol) in diphenyl ether (3 ml) was added ethyl 3-(1H-1,2,3-benzotriazol-5-yl)-3-oxopropanoate (300 mg, 1.29 mmol) and 4-methylbenzene-1-sulfonic acid (5 mg, 0.02 mmol). After stirring 1 h at 170° C., the solids were collected by filtration, washed with ethyl acetate (2×10 ml), methanol (3×10 ml) and dried to give 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-(pyridin-2-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a off-white solid (36.7 mg, 18%).

reactant | 3-(pyridin-2-yl)-1H-1,2,4-triazol-5-amine | 0.57 mmol, 100 mg | N1=C(C=CC=C1)C1=NNC(=N1)N | C7H7N5
reactant | ethyl 3-(1H-1,2,3-benzotriazol-5-yl)-3-oxopropanoate | 1.29 mmol, 300 mg | N1N=NC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C11H11N3O3
reactant | 4-methylbenzene-1-sulfonic acid | 0.02 mmol, 5 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | diphenyl ether | 3 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-(pyridin-2-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 36.7 mg, 18% | N1N=NC2=C1C=CC(=C2)C=2NC=1N(C(C2)=O)N=C(N1)C1=NC=CC=C1 | C16H10N8O
